US07288541B2
To a solution of 130 mg (0.36 mmol) of tert-butyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate & tert-butyl (1S)-1-{(1R)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate in 1 mL of dioxane was added 5 mL of 4M hydrochloric acid in dioxane. The reaction mixture was stirred for 2 h and concentrated under reduced pressure. Half of the product was carried forward. This material was slurried in N,N-dimethylformamide before 0.094 mL (0.54 mmol) of N,N-diisopropylethylamine was added, followed by 86 mg (0.18 mmol) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate. The reaction mixture was stirred at room temperature for 18 h, and then diluted with ethyl acetate before being washed with 1M sodium hydroxide and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate to afford 60 mg (55%) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate & (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1R)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate. 1H-NMR (300 MHz, DMSO-d6): δ 7.99 (m, 2H), 7.74 (d, J=8 Hz, 2H), 6.77 (s, 1H), 6.58 (d, J=9 Hz, 1H), 6.33 (m, 1H), 4.95–4.75 (m, 2H), 4.48 (d, J=13 Hz, 1H), 4.19 (t, J=12 Hz, 1H), 3.45–3.10 (m, 13H), 1.25 (m, 1H), 0.99 (m, 14H), 0.67 (m, 3H); ES-LCMS m/z 620 (M+Na).

reactant | tert-butyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate | 0.36 mmol, 130 mg | O[C@@H](CNC(=O)N1CCOCC1)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H33N3O5
reactant | tert-butyl (1S)-1-{(1R)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate | O[C@H](CNC(=O)N1CCOCC1)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H33N3O5
reactant | hydrochloric acid | 4M, 5 mL | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.54 mmol, 0.094 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate | 0.18 mmol, 86 mg | C(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22F3N3O5
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate | 60 mg, 55% | O[C@@H](CNC(=O)N1CCOCC1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H42F3N5O5
